US07420055B2
Synthesis of 4-tert-Butyl-N -[4-chloro-2-(1-methyl-[1,2,3]triazole-4-carbonyl)-phenyl]-benzenesulfonamide
Following the general procedure for synthesis of N-arylbenzenesulfonamides, 28 mg (0.12 mmol) of (2-Amino-5-chloro-phenyl)-(1-methyl-[1,2,3]triazol-4-yl) methanone and 56 mg (0.24 mmol) of 4-tert-butylphenylsulfonyl chloride were combined in 0.5 ml of anhydrous pyridine at 60° C. to give, after purification, the title product as a pale yellow solid: 1H NMR CD3OD δ (ppm): 1.21 (s, 9H), 4.25 (s, 3H), 7.38 (d, 2H), 7.53 (d, 2H), 7.54-7.63 (m, 2H), 8.11 (s, 1H), 8.22 (d, 1H); MS: (M+H)/z=433.1.

reactant | (2-Amino-5-chloro-phenyl)-(1-methyl-[1,2,3]triazol-4-yl) methanone | 0.12 mmol, 28 mg | NC1=C(C=C(C=C1)Cl)C(=O)C=1N=NN(C1)C | C10H9ClN4O
reactant | 4-tert-butylphenylsulfonyl chloride | 0.24 mmol, 56 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 4-tert-Butyl-N -[4-chloro-2-(1-methyl-[1,2,3]triazole-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1N=NN(C1)C | C20H21ClN4O3S
